US07320972B2
(3R,4S)-1-(4-Fluorophenyl)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]azetidin-2-one (64.1 mg, 0.12 mmol), methyl 2,3,4-tri-O-benzyl-6-O-(3-bromophenyl)-D-glucopyranoside (54.6 mg, 0.09 mmol), and potassium carbonate (88 μL, 2 M aqueous solution) were dissolved in 1:1 toluen-ethanol (1 mL total volume). The solution was degassed by evacuating the vessel and flushing with argon three times. Tetrakis(triphenylphosphine)palladium (5.1 mg, 0.004 mmol) was added and the solution degassed twice. The reaction was heated at 85° C. for 1 h. LCMS and TLC (1:1 hexane-ethyl acetate) analysis indicated consumption of the starting glycoside. The reaction was diluted into ethyl acetate (30 mL) and washed with water (2×10 mL). The combined aqueous washes were back extracted with ethyl acetate (2×10 mL). The combined organic extracts were dried over anhydrous sodium sulfate, filtered, concentrated in vacuo and purified by chromatography (12 g silica gel, 20% to 50% ethyl acetate-hexane) to afford methyl 2,3,4-tri-O-benzyl-6-O-(4′-{(2S,3R)-1-(4-fluorophenyl)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-4-oxoazetidin-2-yl}biphenyl-3-yl)-α-D-glucopyranoside (70.0 mg, 85% yield). 1H NMR (300 MHz, CDCl3) δ 7.55 (d, J=8.1 Hz, 2H), 7.39-6.84 (m, 29H), 5.01 (d, J=10.8 Hz, 1H), 4.89-4.80 (m, 3H), 4.73-4.64 (m, 4H), 4.52 (d, J=11.1 Hz, 1H), 4.15-4.12 (m, 2H), 4.08-4.-1 (m, 1H), 3.94-3.90 (m, 1H), 3.77-3.71 (m, 1H), 3.62 (dd, J=3.6 Hz, J=9.6 Hz, 1H), 3.39 (s, 3H), 3.13-3.10 (m, 1H), 2.03-1.89 (m, 4H) ppm.

reactant | (3R,4S)-1-(4-Fluorophenyl)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]azetidin-2-one | 0.12 mmol, 64.1 mg | FC1=CC=C(C=C1)N1C([C@@H]([C@H]1C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)CC[C@H](O)C1=CC=C(C=C1)F)=O | C30H32BF2NO4
reactant | methyl 2,3,4-tri-O-benzyl-6-O-(3-bromophenyl)-D-glucopyranoside | 0.09 mmol, 54.6 mg | C(C1=CC=CC=C1)O[C@H]1C(OC)O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COC1=CC(=CC=C1)Br | C34H35BrO6
reactant | potassium carbonate | 2 M, 88 μL | C([O-])([O-])=O.[K+].[K+]
solvent | toluen-ethanol | 1 mL | C=1(C(=CC=CC1)CCO)C | C9H12O
catalyst | Tetrakis(triphenylphosphine)palladium | 0.004 mmol, 5.1 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 2,3,4-tri-O-benzyl-6-O-(4′-{(2S,3R)-1-(4-fluorophenyl)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-4-oxoazetidin-2-yl}biphenyl-3-yl)-α-D-glucopyranoside | 70.0 mg, 85% yield | C(C1=CC=CC=C1)O[C@H]1[C@@H](OC)O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COC=1C=C(C=CC1)C1=CC=C(C=C1)[C@H]1N(C([C@@H]1CC[C@H](O)C1=CC=C(C=C1)F)=O)C1=CC=C(C=C1)F | C58H55F2NO8
